US07371743B2
(a) methyl 4-(5-chloro-pentanoyl-amino)-3-methoxy-benzoate
Prepared analogously to Example 6a from methyl 4-amino-3-methoxy-benzoate and 5-chloro-pentanoic acid chloride in THF with TEA.

reactant | methyl 4-amino-3-methoxy-benzoate | NC1=C(C=C(C(=O)OC)C=C1)OC | C9H11NO3
reactant | 5-chloro-pentanoic acid chloride | ClCCCCC(=O)Cl | C5H8Cl2O
solvent | THF | C1CCOC1 | C4H8O
product | methyl 4-(5-chloro-pentanoyl-amino)-3-methoxy-benzoate | ClCCCCC(=O)NC1=C(C=C(C(=O)OC)C=C1)OC | C14H18ClNO4
